US07494993B2
Biphenyl-4-carboxylic acid[3-(7-amino-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-4-chloro-phenyl]-amide
0.079 g Biphenyl-4-carboxylic acid[4-chloro-3-(7-methanesulfonyl-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-amide were dissolved in 10 mL tetrahydrofuran. 10 mL of liquid ammonia were added in an autoclave and the reaction mixture was stirred for 2 h. The organic solvent was evaporated, and the crude product was purified by reverse phase chromatography (acetonitrile/water with 1% acetic acid) to give the title product in 31% yield.

reactant | Biphenyl-4-carboxylic acid[4-chloro-3-(7-methanesulfonyl-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-phenyl]-amide | 0.079 g | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C27H22ClN5O4S
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Biphenyl-4-carboxylic acid[3-(7-amino-1-methyl-2-oxo-1,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-3-yl)-4-chloro-phenyl]-amide | 31% yield | NC1=NC=C2C(=N1)N(C(N(C2)C=2C=C(C=CC2Cl)NC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C | C26H21ClN6O2
